US08022223B2
Step A: 2-(2-chloropyridin-3-yloxy)benzonitrile:
A 50 mLround bottom flask was charged with 2-chloropyridin-3-ol (2.5 g, 19 mmol), 2-fluorobenzonitrile (2.6 g, 21 mmol) and potassium carbonate (6.7 g, 48 mmol) in DMF (10 mL) and heated at 90° C. for 1.5 days. Water was added water, and the reaction mixture was extracted with ethyl acetate, dried over magnesium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography using 10-20% ethyl acetate in hexanes as eluent to afford the title compound as an off white solid (2.1 g, 47% yield).

reactant | 2-chloropyridin-3-ol | 19 mmol, 2.5 g | ClC1=NC=CC=C1O | C5H4ClNO
reactant | 2-fluorobenzonitrile | 21 mmol, 2.6 g | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | potassium carbonate | 48 mmol, 6.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(2-chloropyridin-3-yloxy)benzonitrile | ClC1=NC=CC=C1OC1=C(C#N)C=CC=C1 | C12H7ClN2O
